US08236835B2
Synthesis of N-benzyl-2-(4-benzyl-2-oxopyrrolidin-1-yl)-4-methylthiazole-5-carboxamide
A mixture of 4-benzylpyrrolidin-2-one (0.068 g, 0.39 mmol), N-benzyl-2-bromo-4-methylthiazole-5-carboxamide (0.10 g, 0.32 mmol), cesium carbonate (0.16 g, 0.48 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.006 g, 0.060 mmol) and xantphos (0.008 g, 0.013 mmol) in anhydrous toluene (3 mL) was subjected to microwave irradiation at 120° C. for 15 min. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography (ethyl acetate/hexanes (1/1)) to afford the title compound as a white solid (0.017 g, 13%): mp 143-144° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.38-7.11 (m, 10H), 5.91 (br s, 1H), 4.56 (d, J=5.5 Hz, 2H), 4.25-4.13 (m, 1H), 3.85-3.72 (m, 1H), 2.95-2.68 (m, 4H), 2.61 (s, 3H), 2.52-2.39 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 173.0, 162.3, 155.3, 152.6, 138.2, 137.9, 128.8, 128.7, 127.9, 127.6, 126.8, 118.6, 52.6, 44.0, 40.1, 37.7, 33.4, 17.2; MS (ES+) m/z 406.3 (M+1).

reactant | 4-benzylpyrrolidin-2-one | 0.39 mmol, 0.068 g | C(C1=CC=CC=C1)C1CC(NC1)=O | C11H13NO
reactant | N-benzyl-2-bromo-4-methylthiazole-5-carboxamide | 0.32 mmol, 0.10 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
reactant | cesium carbonate | 0.48 mmol, 0.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | xantphos | 0.013 mmol, 0.008 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.060 mmol, 0.006 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-benzyl-2-(4-benzyl-2-oxopyrrolidin-1-yl)-4-methylthiazole-5-carboxamide | 0.017 g, 13% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CC(C1)CC1=CC=CC=C1)=O)C | C23H23N3O2S
